US06759428B2
To 3.4 g of 4-hydroxymethyl-piperidine-1-carboxylic acid tert-butyl ester (15.79 mmol) in 80 ml of THF, cooled in an ice/water bath, was added 4.76 g triphenylphosphine (18.16 mmol) and then 6.05 g total of carbon tetrabromide (18.16 mmol) in two portions. The reaction was stirred to room temperature over 16 hours. 1.2 g carbon tetrabromide (3.6 mmol) was added twice more over 24 hours before the reaction mixture was filtered. Approximately 240 ml of diethyl ether was added and the resulting mixture was filtered and evaporated. The residue was purified by chromatography on silica gel in 5-10% ethyl acetate/hexanes to give 3.3 g 4-bromomethyl-piperidine-1-carboxylic acid tert-butyl ester (MS: M+H=263/265).

reactant | 4-hydroxymethyl-piperidine-1-carboxylic acid tert-butyl ester | 15.79 mmol, 3.4 g | C(C)(C)(C)OC(=O)N1CCC(CC1)CO | C11H21NO3
reactant | triphenylphosphine | 18.16 mmol, 4.76 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | carbon tetrabromide | 18.16 mmol | C(Br)(Br)(Br)Br | CBr4
reactant | carbon tetrabromide | 3.6 mmol, 1.2 g | C(Br)(Br)(Br)Br | CBr4
solvent | THF | 80 ml | C1CCOC1 | C4H8O
product | 4-bromomethyl-piperidine-1-carboxylic acid tert-butyl ester | 3.3 g | C(C)(C)(C)OC(=O)N1CCC(CC1)CBr | C11H20BrNO2
